US07612092B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(methylsulfonyl)urea
After suspending sodium hydride (11 mg, 0.275 mmol) in tetrahydrofuran (8 ml) under a nitrogen atmosphere, methanesulfonylamide (31.4 mg, 0.330 mmol) was added while cooling in an ice water bath, and the mixture was stirred at room temperature for 10 minutes. Phenyl N-(4-(6-cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)carbamate (50 mg, 0.110 mmol) was added and the mixture was stirred at 60° C. for 1 hour. The insoluble portion was filtered off, and after concentration under reduced pressure, tetrahydrofuran-hexane (1:2) was added for crystallization to obtain the title compound (37.6 mg, 0.082 mmol, 75.0%) as gray crystals.

reactant | sodium hydride | 0.275 mmol, 11 mg | [H-].[Na+]
reactant | methanesulfonylamide | 0.330 mmol, 31.4 mg | CS(=O)(=O)[NH-]
reactant | Phenyl N-(4-(6-cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)carbamate | 0.110 mmol, 50 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C26H21N3O5
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(methylsulfonyl)urea | 0.082 mmol, 37.6 mg, 75.0% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C | C21H20N4O6S
